US07427635B2
Crude ((1S,2S)-1-fluorocarbonyl-2-phenyl-propyl)-carbamic acid tert-butyl ester (2.2 g, ≈6.93 mol), 1-(2-amino-thiazol-4-yl)-ethanone (1.0 g, 7.0 mmol), 4-methyl morpholine (1.56 mL, 14 mmol) and N,N-dimethylaminopyridine (10 mg, 0.082 mmol) were dissolved in tetrahydrofuran (20 mL). The mixture was microwaved at 120° C. for 15 minutes. The solution was diluted with ethyl acetate and washed with 1.5 M aqueous potassium hydrogen sulfate, water and brine. After drying (sodium sulfate), filtration and evaporation of the solvents, [(1S,2S)-1-(4-acetyl-thiazol-2-ylcarbamoyl)-2-phenyl-propyl]-carbamic acid tert-butyl ester (2.8 g, 89%) was obtained as a yellow foam.

reactant | ((1S,2S)-1-fluorocarbonyl-2-phenyl-propyl)-carbamic acid tert-butyl ester | ≈6.93 mol, 2.2 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)C1=CC=CC=C1)C(=O)F)=O | C15H20FNO3
reactant | 1-(2-amino-thiazol-4-yl)-ethanone | 7.0 mmol, 1.0 g | NC=1SC=C(N1)C(C)=O | C5H6N2OS
reactant | 4-methyl morpholine | 14 mmol, 1.56 mL | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(1S,2S)-1-(4-acetyl-thiazol-2-ylcarbamoyl)-2-phenyl-propyl]-carbamic acid tert-butyl ester | 2.8 g, 89% | C(C)(C)(C)OC(N[C@@H]([C@@H](C)C1=CC=CC=C1)C(NC=1SC=C(N1)C(C)=O)=O)=O | C20H25N3O4S
